US07288537B2
A suspension of polymer bound triphenyl phosphine (18.25 g, 54.76 mmol) in DCM (100 ml) is treated with iodine (12.2 g, 48.1 mmol) and the reaction mixture stirred at ambient temperature for 15 minutes. Imidazole (3.72 g, 54.7 mmol) is added and the reaction mixture stirred for a further 15 minutes. A solution of (S)-3-tert-butoxycarbonylamino-4-hydroxy-butyric acid benzyl ester (6.76 g, 21.9 mmol) in DCM (100 ml) is added. The suspension is stirred at reflux for 1.5 hours, then filtered through Celite™ filter material, washing through with DCM. The combined organic phase is washed with an aqueous solution of 10% sodium thiosulphate, water and brine, then dried over magnesium sulphate and evaporated. The crude product is chromatographed over flash silica using 8% ethylacetate in iso-hexane as eluent to afford (S)-3-tert-butoxycarbonylamino-4-iodo-butyric acid benzyl ester. [M-BOC] 320.12

reactant | triphenyl phosphine | 54.76 mmol, 18.25 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 48.1 mmol, 12.2 g | II | I2
reactant | Imidazole | 54.7 mmol, 3.72 g | N1C=NC=C1 | C3H4N2
reactant | (S)-3-tert-butoxycarbonylamino-4-hydroxy-butyric acid benzyl ester | 21.9 mmol, 6.76 g | C(C1=CC=CC=C1)OC(C[C@@H](CO)NC(=O)OC(C)(C)C)=O | C16H23NO5
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | (S)-3-tert-butoxycarbonylamino-4-iodo-butyric acid benzyl ester | C(C1=CC=CC=C1)OC(C[C@@H](CI)NC(=O)OC(C)(C)C)=O | C16H22INO4
